US04267175
4-Acetylamino-5-chloro-methoxybenzoic acid (3.50 g, 0.144 mole) was treated with thionyl chloride (25 ml) at 50° for 1/2 hour. The mixture was evaporated in vacuo and the residue azeotroped twice with anhydrous benzene (100 ml) and redissolved in anhydrous benzene (100 ml). Triethylamine (1.45 g) was added followed by 1-amino-4-benzylpiperazine (2.75 g 0.144 mole) and the reaction left for 6 hours at room temperature. The mixture was evaporated in vacuo, taken up in water (50 ml) basified with dilute sodium hydroxide (10%) and extracted with chloroform. Evaporation of the dried (MgSO4) chloroform extract gave 4-acetylamino-5-chloro-2-methoxy-N-[4-benzyl-1-piperazinyl]benzamide (3.50 g; 58%) as colourless microcrystals m.p. 211°-213° C. A sample recrystallised from benzene gave m.p. 212° C.

reactant | 4-Acetylamino-5-chloro-methoxybenzoic acid | 0.144 mole, 3.50 g | C(C)(=O)NC1=CC(=C(C(=O)O)C=C1Cl)OC | C10H10ClNO4
reactant | thionyl chloride | 25 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 1-amino-4-benzylpiperazine | 0.144 mole, 2.75 g | NN1CCN(CC1)CC1=CC=CC=C1 | C11H17N3
product | 4-acetylamino-5-chloro-2-methoxy-N-[4-benzyl-1-piperazinyl]benzamide | 3.50 g, 58% | C(C)(=O)NC1=CC(=C(C(=O)NN2CCN(CC2)CC2=CC=CC=C2)C=C1Cl)OC | C21H25ClN4O3
